* source ADC
C_C1         N01900 N01917  12.8n IC=0 TC=0,0 
R_R1         N01900 N29993  20k TC=0,0 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +500n 0
+  +500n 1
+ ENDREPEAT
X_CNTA         CLK RST_CNT N137773 Q0 Q1 Q2 Q3 VCC 0 CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNTB         0 RST_CNT Q3 Q4 Q5 Q6 Q7 VCC 0 CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V4         VCC 0 10v
X_STATEBUFF          CLK N38287 0 0 N0 N1 N2 0 VCC VCC S0 S1 S2 M_UN0001
+  CD4076B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_AND8          Q0 Q1 Q2 Q3 Q7 Q6 Q5 Q4 N55721 A M_UN0002 M_UN0003 CD4068B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND T IO_STM STIMULUS=TRIGGER
V_Vref         N33002 0 -5
V_Vin         N32959 0 2
X_IC9          N32959 N29993 N33002 N29993 0 0 N01900 N01917 I0 I1 0 RST_IN VCC
+  0 CD4066B
U_DSTM6         STIM(1,0) $G_DPWR $G_DGND N38287 IO_STM STIMULUS=RST
R_R2         N55721 0  10e6 TC=0,0 
X_IC10          S0 S1 S2 0 NX0 NX1 N99368 M_UN0004 NX4 M_UN0005 M_UN0006
+  M_UN0007 M_UN0008 M_UN0009 CD4028B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U49C         NX0 NZ0 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U48C         NX0 NY0 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U50C         NX1 NY1 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC11          NX0 NX1 NX2 NX3 NX4 NX5 0 0 S0 S1 S2 0 0 N0 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_IC12          NY0 NY1 T NY3 NY4 NY5 0 0 S0 S1 S2 0 0 N1 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_IC13          NZ0 T NZ2 NZ3 T NZ5 0 0 S0 S1 S2 0 0 N2 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_U53C         P NP $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U55C         T NT $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U56C         A NA $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U57A         T A N942172 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U58C         N942172 NX5 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U59A         A T NY5 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U59B         NA T NZ5 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U62C         N99368 NZ2 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U63B         A NT NX2 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U64B         NT P NX3 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U65B         T P NY3 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U66B         T NP NZ3 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U67C         NX4 NY4 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U72B         N118413 N119406 CLK_EN_OVERIDE $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U73B         N0 N1 N118413 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U74C         N2 N119406 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V5         VSS 0 -5V
X_U78A         MEAS CLK_EN_OVERIDE N140538 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U81C         CLK N141043 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM7         STIM(1,0) $G_DPWR $G_DGND N142316 IO_STM STIMULUS=RST
X_OUTPUTBUFF1          WR N142316 0 0 Q0 Q1 Q2 Q3 VCC VCC O0 O1 O2 O3 CD4076B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
U_DSTM8         STIM(1,0) $G_DPWR $G_DGND N143050 IO_STM STIMULUS=RST
X_OUTPUTBUFF2          WR N143050 0 0 Q4 Q5 Q6 Q7 VCC VCC O4 O5 O6 O7 CD4076B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
C_C2         VCC 0  10u  TC=0,0 
C_C3         0 VSS  10u  TC=0,0 
X_U83         N140538 N141043 N159974 N137773 M_UN0010 $G_DPWR $G_DGND JKFF
X_U84C         N140538 N159974 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U29A         N162386 N162460 N162372 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10B         S0 S1 I1 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U34B         P RST_IN N162680 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12F         S0 N162940 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U28E         S2 N162460 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U30B         S1 N162588 N162520 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6B         S0 S1 N162266 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U31A         S0 S2 N162588 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U35A         N162520 N162680 MEAS $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         S1 N162940 I0 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         S0 N162372 RST_CNT $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9B         S1 N162386 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9E         S1 RST_IN $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         N162266 WR $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U85A          N164985 N01917 VCC 0 N154077 ad648a
X_U85B          0 N01900 VCC VSS N01917 ad648a
R_R3         N164985 N154077  5k TC=0,0 
R_R4         N164994 N164985  10 TC=0,0 
V_V6         N164994 0 1m
X_U86A          N154077 0 VCC 0 P ad648a
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
R__UC0002   M_UN0002  0   {1/GMIN}
R__UC0003   M_UN0003  0   {1/GMIN}
R__UC0004   M_UN0004  0   {1/GMIN}
R__UC0005   M_UN0005  0   {1/GMIN}
R__UC0006   M_UN0006  0   {1/GMIN}
R__UC0007   M_UN0007  0   {1/GMIN}
R__UC0008   M_UN0008  0   {1/GMIN}
R__UC0009   M_UN0009  0   {1/GMIN}
R__UC0010   O3  0   {1/GMIN}
R__UC0011   O7  0   {1/GMIN}
